US04535089
23.1 g of 5-isopropyl-4-methoxycarbonyloxazole are dissolved in a mixture of 200 ml of methanol and 200 ml of water, and 15.3 g of potassium hydroxide are added thereto. The mixture is stirred at room temperature over night, and condensed under reduced pressure to remove methanol. The residue is dissolved in water and the aqueous solution is adjusted to pH 2-3 with conc. hydrochloric acid. Said solution is extracted with ethyl acetate, and the extract is washed with water, dried and then evaporated to remove solvent. 18 g of 5-isopropyl-4-oxazolecarboxylic acid are obtained. Yield: 85.3%.

reactant | 5-isopropyl-4-methoxycarbonyloxazole | 23.1 g | C(C)(C)C1=C(N=CO1)C(=O)OC | C8H11NO3
reactant | potassium hydroxide | 15.3 g | [OH-].[K+]
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 5-isopropyl-4-oxazolecarboxylic acid | 18 g, Yield: 85.3% | C(C)(C)C1=C(N=CO1)C(=O)O | C7H9NO3
